US06555552B2
2-Methoxy-5-(trifluoromethoxy)benzaldehyde
To 4-(trifluoromethoxy)anisole (5.0 g, 26 mmol) in tetrahydrofuran (100 mL) cooled to −78° C. was slowly added a solution of tert-butyllithium in pentanes (23 mL, 1.7M, 39 mmol). The resulting solution was stirred at −78° C. for 30 minutes, before N,N′-dimethylformamide (8 mL, 104 mmol) was added. The solution was allowed to stir to ambient temperature and was then quenched with saturated aqueous ammonium chloride (100 mL). The suspension formed was extracted with ethyl acetate (2×100 mL) and the extracts dried (MgSO4). Concentration gave a yellow oil which was purified by silica chromatography to give the title compound as an oil (4.13 g, 18.8 mmol).

reactant | 4-(trifluoromethoxy)anisole | 26 mmol, 5.0 g | FC(OC1=CC=C(C=C1)OC)(F)F | C8H7F3O2
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | N,N′-dimethylformamide | 104 mmol, 8 mL | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-Methoxy-5-(trifluoromethoxy)benzaldehyde | 18.8 mmol, 4.13 g | COC1=C(C=O)C=C(C=C1)OC(F)(F)F | C9H7F3O3
